US07470710B2
Description 5 (RS)-2-Benzooxazol-2-ylmethyl-piperidine-1-carboxylic acid tert butyl ester
(RS)-2-[(2-Hydroxy-phenylcarbamoyl)-methyl]-piperidine-1-carboxylic acid tert butyl ester (1.25 g), 4-toluenesulphonic acid (0.07 g) and 4-N,N-dimethylaminopyridine (0.023 g) were combined in 1,3-dichlorobenzene (30 ml) and the mixture boiled for 48 h. The mixture was diluted with dichloromethane and washed with water. The organic phase was dried (MgSO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, 0→1% methanol in dichloromethane) to give the title compound (0.50 g)

reactant | (RS)-2-[(2-Hydroxy-phenylcarbamoyl)-methyl]-piperidine-1-carboxylic acid tert butyl ester | 1.25 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(NC1=C(C=CC=C1)O)=O | C18H26N2O4
reactant | 4-toluenesulphonic acid | 0.07 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,3-dichlorobenzene | 30 ml | ClC1=CC(=CC=C1)Cl | C6H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (RS)-2-Benzooxazol-2-ylmethyl-piperidine-1-carboxylic acid tert butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC=1OC2=C(N1)C=CC=C2 | C18H24N2O3
